US07829665B2
(S)-1-tert-butyl 2-methyl 5-oxopyrrolidine-1,2-dicarboxylate (1.00 g, 4.11 mmol) in THF (20 mL) was added but-3-enylmagnesium bromide (12.3 ml, 6.17 mmol) in THF at −78° C. The reaction mixture was stirred at −78° C. for 1.5 hr and 10% potassium hydrogensulfate (20 mL) was added. The reaction mixture was then poured into a mixture of brine (20 mL) and EA (40 mL). The organic layer was separated and dried over sodium sulfate. After removal of solvent, the residue was purified by chromatography (hexane:Ethyl acetate=4:1) to give the (S)-methyl 2-(tert-butoxycarbonylamino)-5-oxonon-8-enoate as colorless oil (1.12 g, 97%). 1H NMR (400 MHz, d6-DMSO) δ7.23 (d, J=7.6 Hz, 1H), 5.79 (m, 1H), 4.93-5.03 (m, 2H), 3.92 (m, 1H), 3.61 (s, 3H), 2.48 (m, 4H), 2.20 (m, 2H), 1.88 (m, 1H), 1.69 (m, 1H), 1.38 (s, 9H).

reactant | (S)-1-tert-butyl 2-methyl 5-oxopyrrolidine-1,2-dicarboxylate | 4.11 mmol, 1.00 g | O=C1CC[C@H](N1C(=O)OC(C)(C)C)C(=O)OC | C11H17NO5
reactant | but-3-enylmagnesium bromide | 6.17 mmol, 12.3 ml | C(CC=C)[Mg]Br
reactant | potassium hydrogensulfate | 20 mL | S(=O)(=O)(O)[O-].[K+]
reactant | EA | 40 mL | CC(OCC)=O | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | brine | 20 mL | [Cl-].[Na+].O
product | (S)-methyl 2-(tert-butoxycarbonylamino)-5-oxonon-8-enoate | 1.12 g, 97% | C(C)(C)(C)OC(=O)N[C@H](C(=O)OC)CCC(CCC=C)=O | C15H25NO5
